US09382188B2
K) 3-cyclopropyl-3-(3-(((5-(2,2-dimethylpropyl)-6-(2-fluoro-5-methoxyphenyl)pyridin-3-yl)oxy)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate (253 mg) in THF (4.0 mL) and methanol (2.0 mL) was added 1N aqueous sodium hydroxide solution (4.0 mL), and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was neutralized with 1N hydrochloric acid (4.0 mL) at room temperature, and extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After silica gel filtration, the solvent was evaporated under reduced pressure to give the title compound (220 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 253 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC)F | C32H38FNO4
reactant | sodium hydroxide | 1N, 4.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 4.0 mL | Cl | ClH
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 2.0 mL | CO | CH4O
product | 3-cyclopropyl-3-(3-(((5-(2,2-dimethylpropyl)-6-(2-fluoro-5-methoxyphenyl)pyridin-3-yl)oxy)methyl)phenyl)propanoic acid | 220 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC)F | C30H34FNO4
